US06063815
4-(4-Benzoyl-2,6-diiodo-phenoxysulfonyl)-2-hydroxy-benzoic acid
The title compound was prepared according to the procedure in Example 4 using (4-hydroxy-3,5-diiodo-phenyl)-phenyl-methanone (0.346 g, 0.768 mmol) and 4-chlorosulphonyl-2-hydroxybenzoic acid (0.928 g, 3.92 mmol) in THF. Purification On Biotage KP-Sil, eluting with 10% MeOH/CHCl3 followed by crystallization from EtOAc/hexane gave 0.15 g (30%) of the title compound as an orange solid, mp 190° C. 1H NMR (DMSO-d6) δ 7.22-7.35 (m, 2H), 7.58 (t, 2H), 7.69-7.75 (m, 3H), 7.95 (d, 1H), 8.10 (s, 2H). IR (KBr) 3400, 3100, 1660, 1280 and 1180 cm-1. mass spectrum (+FAB) m/z 651 (M+H). Anal. Calcd. for C20H12I2O7S 0.5H2O: C,36.44; H,1.99; N,0.00. Found: C,36.50; H,2.16; N,0.09.

reactant | (4-hydroxy-3,5-diiodo-phenyl)-phenyl-methanone | 0.768 mmol, 0.346 g | OC1=C(C=C(C=C1I)C(=O)C1=CC=CC=C1)I | C13H8I2O2
reactant | 4-chlorosulphonyl-2-hydroxybenzoic acid | 3.92 mmol, 0.928 g | ClS(=O)(=O)C1=CC(=C(C(=O)O)C=C1)O | C7H5ClO5S
solvent | THF | C1CCOC1 | C4H8O
product | 4-(4-Benzoyl-2,6-diiodo-phenoxysulfonyl)-2-hydroxy-benzoic acid | 0.15 g, 30% | C(C1=CC=CC=C1)(=O)C1=CC(=C(OS(=O)(=O)C2=CC(=C(C(=O)O)C=C2)O)C(=C1)I)I | C20H12I2O7S
